US05576322
2-Benzyloxymethyl-4-chloro-6-methoxyquinazoline
30 ml of phosphorus oxychloride was added to a suspension of 1.50 g (5.06 mmol) of 2-benzyloxymethyl-6-methoxyquinazolin-4(3H)-one in 75 ml of acetonitrile. The obtained mixture was heated under reflux. After one hour, the reaction mixture was distilled under a reduced pressure to remove the solvent and the obtained residue was dissolved in chloroform. The obtained solution was washed with a saturated aqueous solution of sodium hydrogen-carbonate. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled under a reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane) to give 1.10 g of the title compound as a yellow crystal.

reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-benzyloxymethyl-6-methoxyquinazolin-4(3H)-one | 5.06 mmol, 1.50 g | C(C1=CC=CC=C1)OCC1=NC2=CC=C(C=C2C(N1)=O)OC | C17H16N2O3
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 2-Benzyloxymethyl-4-chloro-6-methoxyquinazoline | 1.10 g, yield(%); 69 | C(C1=CC=CC=C1)OCC1=NC2=CC=C(C=C2C(=N1)Cl)OC | C17H15ClN2O2
